US07259266B2
8-Chloro-6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid
To a mixture of 1.0 g (3.4 mmol) of 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid in anhydrous dichloromethane (30 mL) was added 4.2 mL (1.0 M in DCM, 22 mmol) sulfuryl chloride dropwise. The resulting mixture was stirred at room temperature for 24 h. The sample was concd and the residue dissolved in 30 mL of acetic acid, followed by addition of 0.5 g granular Zn. The mixture was stirred at room temperature for 3 h, filtered and the filtrate evaporated. The residue was purified by chromatography to afford 0.20 g (18%) of a white solid: 1H NMR(CDCl3/400 MHz) 7.79 (s, 1H), 7.26 (s, 1H), 5.77 (q, J=6.8 Hz, 1H), 2.63(q, J=7.6 Hz, 2H), 1.21(t, J=7.6 Hz, 3H). MS (ESI+) 323.0 (M+1, 100).

reactant | 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 3.4 mmol, 1.0 g | C(C)C=1C=C2C=C(C(OC2=CC1O)C(F)(F)F)C(=O)O | C13H11F3O4
reactant | sulfuryl chloride | 22 mmol, 1.0 M, 4.2 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | Zn | 0.5 g | [Zn] | Zn
product | 8-Chloro-6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 0.20 g, 18% | ClC=1C(=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)O)CC)O | C13H10ClF3O4
